US08133909B2
(3,4-Bis-difluoromethoxy-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine
In analogy to the procedure described for the synthesis example 71 (step 1), the title compound (3,4-bis-difluoromethoxy-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine (MS m/e: 399.1 [M+H]+) was prepared from 1,2-bis-difluoromethoxy-4-iodo-benzene instead of 6-bromo-2,3-dihydro-benzofuran and 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine instead of 2-(6-trifluoromethyl-pyridin-3-yl)-ethylamine.

reactant | 1,2-bis-difluoromethoxy-4-iodo-benzene | FC(OC1=C(C=C(C=C1)I)OC(F)F)F | C8H5F4IO2
reactant | 2-(5-trifluoromethyl-pyridin-2-yl)-ethylamine | FC(C=1C=CC(=NC1)CCN)(F)F | C8H9F3N2
product | (3,4-bis-difluoromethoxy-phenyl)-[2-(5-trifluoromethyl-pyridin-2-yl)-ethyl]-amine | FC(OC=1C=C(C=CC1OC(F)F)NCCC1=NC=C(C=C1)C(F)(F)F)F | C16H13F7N2O2
